US05763437
A mixture of 6-amino-1H-indazole (2.00 g) and pyridine (2.67 ml) in tetrahydrofuran was stirred at 0° C. and then p-nitrophenyl chloroformate (3.18 g) was added and stirred at the same temperature for 2 hours. The reaction mixture was evaporated and partitioned between ethyl acetate and water. The organic layer was washed with water and brine, dried over sodium sulfate, and evaporated in vacuo. The pale yellow powder was washed with isopropyl ether and diethyl ether, and vacuumed to afford 4-nitrophenyl N-(lH-indazol-6-yl)carbamate (2.67 g).

reactant | 6-amino-1H-indazole | 2.00 g | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | pyridine | 2.67 ml | N1=CC=CC=C1 | C5H5N
reactant | p-nitrophenyl chloroformate | 3.18 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-nitrophenyl N-(lH-indazol-6-yl)carbamate | 2.67 g | N1N=CC2=CC=C(C=C12)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H10N4O4
